Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pravastatin / simvastatin / Livalo / mirtazapine / nicotine
 
Attending: ___.
 
Chief Complaint:
bright red blood per rectum
 
Major Surgical or Invasive Procedure:
___ - ERCP
___ - EGD

 
History of Present Illness:
Ms. ___ is a ___ with PMH of EtOH 
cirrhosis, CAD s/p stent in ___, and recent diagnosis of 
amupllary mass on ERCP for bilirubinemia with ERCP on ___ 
with sphincterotomy, stone removal, and brushings/biopsy who 
presents with rectal bleeding.

The patient woke up in middle of night with large melanotic BM, 
after which she went back to bed. However, this morning she had 
another BM bright red blood with clots and had an episode of 
syncope at 5AM. She also had non-bloody vomiting. 

When the EMD arrived, she was found to have BP in ___, that 
improved with fluids. H/H on arrival to ___ was ___. She 
received 2U blood, 4U FFP, and 1U platelets as well as protonix 
per report. 

On arrival to ___ ED, initial vitals were: 98.1 70 91/58 22 
98% 2L. Labs notable for: WBC 5.3, H/H 7.4/20.1, plt 49, INR 
2.0, Na 139, Cr 0.3, Tbili 6.5, lipase 33, lactate 2.2. She 
received 1U platelets, 1U pRBCs, and 1U FFP. She also received 
80mg IV protonix and phytonadione 10 mg. GI/ERCP consulted who 
recommended admission to ___ for post-spincterotomy bleed, 
continue PPI, trend Hct, ensure good access with plan to scope 
tonight. Vitals prior to transfer: 98.6 67 99/35 17 100% 2L.

Of note, she was recently admitted on ___ to ___ for further 
evaluation of an ampullary mass concerning for malignancy. She 
underwent ERCP on ___. She received platelets and FFP prior to 
the proedure. Spincterotomy was performed and several stones 
were removed. Brushings were taken of the intra-ampullary 
stricture and biopsies were taken of the associated fleshy 
intra-ampullary component. She was discharged on cipro to 
complete a 5d course. 

On arrival to the ___, pt found to have continued melanotic 
stool. Reports feeling tired, wants procedure done soon. Denies 
abdominal pain but reports continued diarrhea.
 
Past Medical History:
EtOH cirrhosis; per patient no varices on EGD
-- Followed by GI at ___: Dr. ___ s/p stent placement in ___
-- followed by Cardiology: Dr. ___ at ___
Thyroid nodule
Urinary incontinence
Migraine
Ampullary abnormality - biopsy pending
 
Social History:
___
Family History:
No history of malignancy in 1st degree family relatives

 
Physical Exam:
Admission Physical Exam:
========================
Vitals: 80   122/53  22   98%RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera icteric, conjunctival pallor, MMM, oropharynx 
clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, mildly tender diffusely, non-distended, bowel sounds 
present, no rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: Warm, dry, mild jaundice 
NEURO: AAOx3

DISCHARGE
VS:  98.1 128/64 75 16 94%RA
Gen: sitting up in bed, comfortable appearing
Eyes - EOMI, +icterus
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally
Abd - soft nontender, normoactive bowel sounds, no guarding, all 
unchanged from prior
Ext - trace edema to mid-shin, improved from prior
Skin - no rashes, +jaundice, no spider hemangioma, no petechiae, 
no palmar erythema
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate

 
Pertinent Results:
ADMISSION
___ 05:15PM BLOOD WBC-5.3# RBC-2.05*# Hgb-7.4*# Hct-20.1*# 
MCV-98# MCH-36.0* MCHC-36.8* RDW-17.8* Plt Ct-49*
___ 05:15PM BLOOD ___ PTT-31.0 ___
___ 05:15PM BLOOD Glucose-127* UreaN-15 Creat-0.3* Na-139 
K-4.7 Cl-110* HCO3-21* AnGap-13
___ 05:15PM BLOOD ALT-29 AST-52* AlkPhos-63 TotBili-6.5*

DISCHARGE
___ 06:30AM BLOOD WBC-3.9* RBC-2.88* Hgb-9.1* Hct-26.3* 
MCV-91 MCH-31.6 MCHC-34.7 RDW-24.7* Plt Ct-43*
___ 06:30AM BLOOD ___ PTT-38.6* ___
___ 06:30AM BLOOD Glucose-85 UreaN-6 Creat-0.3* Na-139 
K-3.7 Cl-105 HCO3-28 AnGap-10
___ 06:30AM BLOOD ALT-30 AST-64* AlkPhos-87 TotBili-7.1*

CT Abd/Pelvis - ___
1.  Limited study but no large retroperitoneal hematoma. 
2.  Small bilateral pleural effusions with interval increase in 
adjacent 
opacities, probably atelectasis though consolidation cannot be 
excluded. 
3.  New metallic stent in the distal CBD with pneumobilia 
attesting to stent patency. 
4.  Diffuse anasarca. 

Mesenteric Arteriogram - ___
___- ampullary arterial dissection  noted in the distal 
inferior branch of the IPDA which was coil embolized. 
Gel-Foam embolization of pancreatic head and uncinate process 
branches arising from the inferior branch of the IPDA. 

ERCP - ___
The scout film was normal. 
•At the ampulla there was a large clot seen. Upon removing the 
clot there was brisk oozing of blood. 
•10 cc of 1:10,000 epinephrine was injected around the apex. 
•Afterwards the bleeding appeared to slow substantially and it 
appeared that the source of bleeding was arising from the area 
of the apex. 
•The bile duct was deeply cannulated with the sphincterotome. 
Contrast was injected and there was brisk flow through the 
ducts. 
•The CBD was 8-9 mm in diameter. There was no filling defects 
suggestive of a clot or stones identified in the CBD and CHD. 
•Given the significant bleeding, a 10 mm x 60 mm WallFlex 
Biliary Fully Covered Metal stent (Ref: ___ 
was placed in the main duct. 
•Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically post stent placement.

ERCP - ___
Upon reaching the ampulla, the previously placed fully covered 
metal stent remained in place with no evidence of migration. The 
stent was visibly patent and there was no evidence of any active 
or recent bleeding.
•Limited evaluation of the esophagus was normal.
•Limited evaluation of the stomach was normal.

 
Brief Hospital Course:
___ year old female with past medical history of EtoH cirrhosis, 
ampullary mass of unknown etiology, status post recent ERCP with 
biopsy and sphincterotomy, admitted ___ with acute blood 
loss anemia and GI hemorrhage from ampulla, status post 
ampullary stenting and ___ embolization, now stable

# Ampullary Mass / Acute GI Hemorrhage from Ampulla / Acute 
Blood Loss Anemia - patient presented to ___ w melena, 
found to have Hgb 5 from 10.3 on ___, she was transfused and 
transferred to ___, where she underwent emergent endoscopy, 
notable for a large clot at ampulla, with brisk oozing requiring 
epi injection and metal stent placement, with course complicated 
by continued bleeding requiring repeat ERCP that did not clarfy 
site of bleeding, followed by mesenteric angiogram and 
embolization. She subsequently remained stable and was observed 
for 72 hours without clinical change.  She was discharged with 
instructions to schedule repeat ERCP in 6 weeks for stent 
removal.  Of note, recent ampullary mass biopsy returned without 
evidence of malignancy.  Total she received 7 units pRBCs, 4 
bags FFP, 2 bags platelets. Hgb 9.1 at discharge.

# ___ Class C Alcoholic Cirrhosis - patient with 
cirrhosis, decompensated with
synthetic deficit (elevated INR), thrombocytopenia, 
encephalopathy (controlled with medication), which likely 
increased her risk for bleeding and other complications.  She 
was treated with 7d of empiric cipro in setting of her bleed, 
completed prior to discharge.  Continued her folate/thiamine, 
rifaximin.  Restarted bumex and spironolactone once clinically 
stable an inpatient, and gave instructions on restarting 
propranolol as an outpatient.  

# Anxiety - continued home clonazepam 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 1 mg PO QHS anxiety/insomnia 
2. FoLIC Acid 1 mg PO DAILY 
3. Nicotine Patch 14 mg TD DAILY 
4. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
5. Ondansetron 4 mg PO Q8H:PRN nausea 
6. Propranolol 10 mg PO BID 
7. Rifaximin 550 mg PO BID 
8. Spironolactone 25 mg PO BID 
9. Thiamine 100 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. Ciprofloxacin HCl 500 mg PO Q12H 
12. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
13. Bumetanide 0.5 mg PO DAILY 

 
Discharge Medications:
1. Bumetanide 0.5 mg PO DAILY 
2. Medical Equipment
Equipment: ___
Duration of anticipated need: Greater than 13 months
Prognosis: Good
Diagnosis: GI Bleed
3. ClonazePAM 1 mg PO QHS anxiety/insomnia 
4. FoLIC Acid 1 mg PO DAILY 
5. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
6. Rifaximin 550 mg PO BID 
7. Thiamine 100 mg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Nicotine Patch 14 mg TD DAILY 
10. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
11. Ondansetron 4 mg PO Q8H:PRN nausea 
12. Spironolactone 25 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Gastrointestinal Bleed / Acute Blood Loss Anemia
Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___: 

It was a pleasure taking care of you at ___.  You were 
admitted with a bleed from your gastrointestinal tract.  You 
underwent several procedures, including an ERCP (endoscopic 
retrograde cholangiopancreatography) and arterial embolization 
to stop the bleeding.  Your blood levels stabilized and you are 
now ready for discharge home.

In 6 weeks you will need to follow-up with Dr ___ to have 
your biliary stent removed
 
Followup Instructions:
___